US07323472B2
4,8-Bis-(2-chloro-phenyl)-2-(2-hydroxy-ethoxy)-8H-pyrido[2,3-d]pyrimidin-7-one
Prepared as described above in Example 98 starting from (E)-3-[4-(2-chloro-phenylamino)-6-(2-chloro-phenyl)-2-methylsulfanyl-pyrimidin-5-yl]-acrylic acid methyl ester and ethylene glycol sodium salt to afford the title compound 4,8-bis-(2-chloro-phenyl)-2-(2-hydroxy-ethoxy)-8H-pyrido[2,3-d]pyrimidin-7-one. 1H-NMR (CDCl3) δ 3.81 (m, 2H), 4.23 (m, 2H), 5.62 (m, 0.5H), 6.65 (d, 1H, J=9.6 Hz), 7.29-7.58 (9H). LC MS (m/e)=428 (MH+). Rt=1.85 min

reactant | (E)-3-[4-(2-chloro-phenylamino)-6-(2-chloro-phenyl)-2-methylsulfanyl-pyrimidin-5-yl]-acrylic acid methyl ester | COC(\C=C\C=1C(=NC(=NC1C1=C(C=CC=C1)Cl)SC)NC1=C(C=CC=C1)Cl)=O | C21H17Cl2N3O2S
reactant | ethylene glycol sodium salt | [Na].C(CO)O
product | 4,8-bis-(2-chloro-phenyl)-2-(2-hydroxy-ethoxy)-8H-pyrido[2,3-d]pyrimidin-7-one | ClC1=C(C=CC=C1)C=1C2=C(N=C(N1)OCCO)N(C(C=C2)=O)C2=C(C=CC=C2)Cl | C21H15Cl2N3O3
